US05236952
A solution of 1.91 ml of 65 percent nitric acid in 20 ml of glacial acetic acid is added dropwise to a solution of 5.5 g of 4-hydroxy-3-methoxyphenyl (3-quinolinyl) ketone in 300 ml of glacial acetic acid at 150° and the mixture is then stirred at this temperature for an additional 2 hours. The mixture is then poured into ice-water and extracted three times with 300 ml of ethyl acetate each time. The organic phase is washed five times with 100 ml of water each time, dried over sodium sulfate and evaporated. After treatment of the residue with ethyl acetate, there is obtained 4-hydroxy-3-methoxy-5-nitrophenyl (3-quinolinyl) ketone in the form of yellow crystals of m.p. 220°-221° (dec.).

reactant | nitric acid | 1.91 ml | [N+](=O)(O)[O-] | HNO3
reactant | 4-hydroxy-3-methoxyphenyl (3-quinolinyl) ketone | 5.5 g | N1=CC(=CC2=CC=CC=C12)C(=O)C1=CC(=C(C=C1)O)OC | C17H13NO3
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 300 ml | C(C)(=O)O | C2H4O2
product | 4-hydroxy-3-methoxy-5-nitrophenyl (3-quinolinyl) ketone | N1=CC(=CC2=CC=CC=C12)C(=O)C1=CC(=C(C(=C1)[N+](=O)[O-])O)OC | C17H12N2O5
